US06337343B1
(i) Boc-Aze-OSu
A mixture of Boc-Aze-OH (5 g, 25 mmol) and HOSu (2.88 g, 25 mmol) in 25 ml of THF was cooled on an ice bath. EDC (4.3 ml, 25 mmol) was added and the solution was stirred overnight. It was evaporated, dissolved in ethyl acetate, washed with KHSO4 (aq, 0.3 M), Na2CO3 (aq, 10%), dried (MgSO4) and evaporated. Crystallization from ethyl acetate:petroleum ether afforded 3.78 g (51%) of sub-title compound

reactant | Boc-Aze-OH | 25 mmol, 5 g | N1([C@H](C(=O)O)CC1)C(=O)OC(C)(C)C | C9H15NO4
reactant | HOSu | 25 mmol, 2.88 g | ON1C(=O)CCC1=O | C4H5NO3
reactant | EDC | 25 mmol, 4.3 ml
solvent | THF | 25 ml | C1CCOC1 | C4H8O
product | Boc-Aze-OSu | 3.78 g, 51% | N1([C@H](C(=O)ON2C(=O)CCC2=O)CC1)C(=O)OC(C)(C)C | C13H18N2O6
